US06939867B2
Preparation of 1(R)-(3-Chloro-phenyl)-2-[1,1-dimethyl-2-(4-nitro-phenyl)-ethylamino]-ethanol (I-1a);
A solution of 2.2 g of 2-amino-2-methyl-1-(4-nitrophenyl)propane (prepared by the procedures described in J. Milecki, et al. J. Med. Chem., 30, 1563 (1987)) and N-trimethylsilylacetamide (1.6 g) in 2.2 mL DMSO was stirred for 30 min, then (R)-3-chlorostyrene oxide (1.8 g) was added and the resulting solution was stirred at 95° C. for 22 h. The reaction solution was allowed to cool, poured over a mixture of ice (30 g) and 6 N aqueous hydrochloric acid (10 mL). A small portion of MeOH was added to produce a homogenous solution, which was stirred for 30 min. The resulting solution was basified with saturated aqueous sodium carbonate, extracted with ethyl acetate, the organic phase dried (Na2SO4) and concentrated in vacuo to afford 4.3 g of the title compound (I-1a) as an orange oil.

reactant | 2-amino-2-methyl-1-(4-nitrophenyl)propane | 2.2 g | NC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C10H14N2O2
reactant | N-trimethylsilylacetamide | 1.6 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | (R)-3-chlorostyrene oxide | 1.8 g | ClC=1C=C([C@@H]2CO2)C=CC1 | C8H7ClO
reactant | hydrochloric acid | 6 N, 10 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMSO | 2.2 mL | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | 1(R)-(3-Chloro-phenyl)-2-[1,1-dimethyl-2-(4-nitro-phenyl)-ethylamino]-ethanol | 4.3 g | ClC=1C=C(C=CC1)[C@H](CNC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)C)O | C18H21ClN2O3
